US03989707
A mixture of 44 parts of methyl 4-amino-2-methyl-1-piperidinecarboxylate, 57.6 parts of 1,4-dichloro-2-nitrobenzene, 32 parts of sodium carbonate, 0.2 parts of potassium iodide and 160 parts of cyclohexanol is stirred for 10 hours at 160° C. After cooling, the reaction mixture is evaporated and water is added to the residue. The product is extracted with methylbenzene. The extract is washed successively twice with water and twice with a diluted hydrochloric acid solution. The formed precipitate is filtered off over hyflo. The filtrate is washed twice with water, dried, filtered and evaporated. The residue is stirred in 2,2'-oxybispropane with activated charcoal. The latter is filtered off and the clear filtrate is evaporated. The oily residue is purified by column-chromatography over silicagel, using trichloromethane as eluent. The pure fractions are collected and the eluent is evaporated, yielding methyl 4-(4-chloro-2-nitrophenylamino)-2-methyl-1-piperidinecarboxylate as an oily residue.

reactant | methyl 4-amino-2-methyl-1-piperidinecarboxylate | NC1CC(N(CC1)C(=O)OC)C | C8H16N2O2
reactant | 1,4-dichloro-2-nitrobenzene | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
product | methyl 4-(4-chloro-2-nitrophenylamino)-2-methyl-1-piperidinecarboxylate | ClC1=CC(=C(C=C1)NC1CC(N(CC1)C(=O)OC)C)[N+](=O)[O-] | C14H18ClN3O4
